US05160662
Into 20 ml of dry THF, were dissolved 1.5 g of oa (6-hydroxy-2-naphthyl)-propanonitrile and 3.0 g of triphenylphosphine, and cooled to 5° C. To this solution, were added dropwise 2.0 g of diethyl azodicarboxylate and then 1.2 g of n-decyl alcohol, and stirred at room temperature for 12 hours. The resulting reaction mixture was extracted with ether, followed by washing three times the ether phase with water and then distilling off the ether. The resulting oily product was extracted with hexane, and the hexanesoluble matter was recrystallized with methanol to obtain 0.7 g of oa (6-n-decyloxy-2-naphthyl)propanonitrile (Compound No. 1-10) of this invention.

reactant | (6-hydroxy-2-naphthyl)-propanonitrile | OC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C13H11NO
reactant | triphenylphosphine | 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | n-decyl alcohol | 1.2 g | C(CCCCCCCCC)O | C10H22O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (6-n-decyloxy-2-naphthyl)propanonitrile | C(CCCCCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C23H31NO
